US04038065
To ethylcyanoacetate (141 g., 1.25 mole) is slowly added 2-ethylhexylamine (129 g., 1.0 mole) over a period of 0.5 hours. The solution is then gradually heated to 154° C. and the ethanol formed is collected over a period of 1.75 hours. The solution is then stripped of all volatiles boiling at or below 88° C./3.0 mm to give N-(2-ethylhexyl)cyanoacetamide, 201.5 g.

reactant | ethylcyanoacetate | 1.25 mole, 141 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | 2-ethylhexylamine | 1.0 mole, 129 g | C(C)C(CN)CCCC | C8H19N
solvent | ethanol | C(C)O | C2H6O
product | N-(2-ethylhexyl)cyanoacetamide | C(C)C(CNC(CC#N)=O)CCCC | C11H20N2O
